US07414060B2
Step 7: 3-Amino-6-cyclopropyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide:
A solution of 70 mg (0.228 mmol) of [6-Cyclopropyl-2-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-pyridin-3-yl]-carbamic acid tert-butyl ester in 3 ml of methylene chloride was treated with 0.26 ml (0.39 g, 3.42 mmol, 15 equiv.) of trifluoroacetic acid. After stirring for 2.5 h at room temperature, the mixture was worked up with Ethyl acetate/Sodium bicarbonate/water to yield 49 mg (0.19 mmol, 83%) of crude title compound as a light yellow solid, MS (ISP): m/e=258.1 (M+H+); which was sufficiently pure to be used directly in the next step.

reactant | [6-Cyclopropyl-2-(1-methyl-1H-pyrazol-3-ylcarbamoyl)-pyridin-3-yl]-carbamic acid tert-butyl ester | 0.228 mmol, 70 mg | C(C)(C)(C)OC(NC=1C(=NC(=CC1)C1CC1)C(NC1=NN(C=C1)C)=O)=O | C18H23N5O3
reactant | trifluoroacetic acid | 3.42 mmol, 0.26 ml, 0.39 g, 15 equiv. | FC(C(=O)O)(F)F | C2HF3O2
reactant | Ethyl acetate Sodium bicarbonate water | C(C)(=O)OCC.C([O-])(O)=O.[Na+].O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-Amino-6-cyclopropyl-pyridine-2-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | 0.19 mmol, 49 mg, 83% | CN1N=C(C=C1)NC(=O)C1=NC(=CC=C1N)C1CC1 | C13H15N5O
